US07091232B2
The diol (Intermediate H3) (2.42 g, 13.5 mmol) was dissolved in CH2Cl2 (75 mL) and reacted with dihydropyran (1.3 mL, 13.8 mmol) and pyridinium para-toluene sulfonate (PPTS) (350 mg, 1.36 mmol) at rt for 18 h. The mixture was concentrated onto SiO2 and purified by chromatography with 10% EtOAc:Hx. The tetrahydropyranyl (THP) protected alcohol (2.02 g, 7.70 mmol) was dissolved in CH2Cl2 (10 mL) and added to a mixture of pyridinium chlorochromate (PCC) (4.9 g, 22.2 mmol), sodium acetate (310 mg, 3.56 mmol) and celite (˜10 g) in CH2Cl2 (100 mL). The mixture was reacted at rt for 18 h and filtered through celite. The residue was purified by chromatography on SiO2 with 20 to 30% EtOAc:Hx to yield 8-(tetrahydro-pyran-2-yloxymethyl)-3,4-dihydro-2H-naphthalen-1-one (Intermediate H4) (˜55%).

reactant | dihydropyran | 13.8 mmol, 1.3 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium para-toluene sulfonate | 1.36 mmol, 350 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | pyridinium chlorochromate | 22.2 mmol, 4.9 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 3.56 mmol, 310 mg | C(C)(=O)[O-].[Na+]
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 8-(tetrahydro-pyran-2-yloxymethyl)-3,4-dihydro-2H-naphthalen-1-one | ~55% | O1C(CCCC1)OCC=1C=CC=C2CCCC(C12)=O | C16H20O3
